US07812047B2
A suspension of LiAlH4 (117 mg) in THF (2 ml) was cooled to 0° C. and treated under an argon atmosphere with a solution of (RS)-2-amino-3-(8-ethyl-naphthalen-1-yl)-propionitrile (230 mg) in THF (4 ml). The reaction mixture was stirred for 5 hrs at r.t., then treated sequentially at 0° C. with 0.1 ml H2O, 0.1 ml 4N NaOH and 0.5 ml H2O. After stirring for 30 min, the solid was filtered off and washed with THF. The filtrate was concentrated. The crude product was isolated by column chromatography (silica gel; eluent: CH2Cl2→CH2Cl2/MeOH 9:1) to give 3-(8-ethyl-naphthalen-1-yl)-propane-1,2-diamine (66 mg) as light brown oil. MS (ISP): 229.3 ((M+H)+).

reactant | LiAlH4 | 117 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (RS)-2-amino-3-(8-ethyl-naphthalen-1-yl)-propionitrile | 230 mg | NC(C#N)CC1=CC=CC2=CC=CC(=C12)CC | C15H16N2
reactant | H2O | 0.1 ml | O | H2O
reactant | NaOH | 4N, 0.1 ml | [OH-].[Na+]
reactant | H2O | 0.5 ml | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 3-(8-ethyl-naphthalen-1-yl)-propane-1,2-diamine | 66 mg | C(C)C=1C=CC=C2C=CC=C(C12)CC(CN)N | C15H20N2
